US07189851B2
D. 4-Cyano-N-(2-furylmethyl)benzenesulfonamide
4-Cyanobenzenesulfonyl chloride (1.77 g, 8.78 mmol) was dissolved in 8 mL of anhydrous pyridine and 2-furfurylamine (1.04 g, 9.66 mmol, 0.98 mL) was added. After 2 h, the reaction solutions were added to 100 mL cold water and stirred for 10 min. Filtration and washing with water provided the title compound as a yellow solid (2.04 g, 7.78 mmol, 89%). 1H NMR (300 MHz, CDCl3) δ 7.90 (d, J=8.4 Hz, 2H), 7.75 (d, J=8.4 Hz, 2H), 7.18 (s, 1H), 6.19 (m, 1H), 6.10 (m, 1H), 4.95 (m, 1H), 4.28 (d, J=6.0 Hz, 2H) ppm.

reactant | 4-Cyanobenzenesulfonyl chloride | 8.78 mmol, 1.77 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 2-furfurylamine | 9.66 mmol, 0.98 mL, 1.04 g | C1=COC(=C1)CN | C5H7NO
reactant | water | 100 mL | O | H2O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 4-Cyano-N-(2-furylmethyl)benzenesulfonamide | 7.78 mmol, 2.04 g, 89% | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCC=1OC=CC1 | C12H10N2O3S
